US07947676B2
N-{4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl]-3-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 55 was repeated using 2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl methanesulfonate and N-methylpiperazine to give the title compound in 44% yield; NMR Spectrum: 2.10 (s, 3H), 2.50 (s, 4H), 2.78 (t, 2H), 3.80 (s, 3H), 4.42 (t, 2H), 5.12 (s, 2H), 7.00 (d, 1H), 7.16 (m, 2H), 7.23 (m, 2H), 7.38 (d, 1H), 7.44 (q, 1H), 8.25 (s, 1H), 8.44 (s, 1H); Mass Spectrum: 508 (MH+).

reactant | 2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethyl methanesulfonate | CS(=O)(=O)OCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)OC | C22H22FN5O6S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-{4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl]-3-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 44% yield | FC=1C=C(COC2=C(C=C(C=C2)NC2=C3C(=NC=N2)NN=C3OCCN3CCN(CC3)C)OC)C=CC1 | C26H30FN7O3
